data/oMe_Silver.jsonl
{"reaction_id": "NR-074_1-C(C)(C)C_2-C(C)(C)C_3-C(C)(C)C_4-C","name": "Fries Rearrangement","level": "medium","reactants_smiles": ["c1(OC(=O)C)c(C(C)(C)C)c(C(C)(C)C)cc(C(C)(C)C)c1"],"products_smiles": ["C(=O)(C)c1c(O)c(C(C)(C)C)c(C(C)(C)C)cc1C(C)(C)C"],"conditions": "AlCl3","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "c1(OC(=[O+][Al-](Cl)(Cl)Cl)C)c(C(C)(C)C)c(C(C)(C)C)cc(C(C)(C)C)c1","rationale": "AlCl3, a strong Lewis acid, coordinates to the ester carbonyl oxygen, withdrawing electron density and enhancing the carbonyl carbon's electrophilicity for subsequent bond cleavage."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "[O+]#CC.c1(O[Al-](Cl)(Cl)Cl)c(C(C)(C)C)c(C(C)(C)C)cc(C(C)(C)C)c1","rationale": "Heterolytic cleavage occurs as the polarized C–O bond breaks, favored by the stability of the acylium ion through resonance and the strong Al–O bond formation."},{"step": 3,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(=O)(C)C1=C(O[Al-](Cl)(Cl)Cl)C(C(C)(C)C)=C(C(C)(C)C)C=C1(C(C)(C)C)","rationale": "The acylium ion acts as a potent electrophile, undergoing electrophilic aromatic substitution at an activated ring position, driven by aromatic π-electron donation to stabilize the σ-complex."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C)c1c(O[Al](Cl)Cl)c(C(C)(C)C)c(C(C)(C)C)cc1C(C)(C)C","rationale": "Proton transfer from the σ-complex oxygen to the Al-bound oxygen restores aromaticity, facilitated by the Lewis acidic Al center stabilizing the alkoxide."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C)c1c(O)c(C(C)(C)C)c(C(C)(C)C)cc1C(C)(C)C","rationale": "Final proton transfer liberates the free phenolic OH, driven by the thermodynamic stability of the neutral product and release of AlCl3 for catalyst turnover."}],"description": "In the Fries rearrangement, AlCl3 coordinates to the ester carbonyl, increasing electrophilicity and promoting cleavage to generate an acylium ion. This electrophile undergoes intramolecular electrophilic aromatic substitution, followed by sequential proton transfers to restore aromaticity and yield the hydroxyaryl ketone."}
{"reaction_id": "NR-102_1-C1CCCCC1_2-c1ccc(Cl)cc1_3-C(C)(C)C","level": "medium","name": "Hantzsch Thiazole Synthesis","reactants_smiles": ["C(C1CCCCC1)(=S)N","C(C(C)(C)C)(=O)C(c1ccc(Cl)cc1)Cl"],"products_smiles": ["C1CCCCC1c1nc(C(C)(C)C)c(c1ccc(Cl)cc1)s1"],"conditions": "","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(C1CCCCC1)(=[NH2+])SC(c1ccc(Cl)cc1)C(C(C)(C)C)(=O)","step_weight": 0,"rationale": "The thioamide nitrogen is nucleophilic due to resonance with the C=S group, attacking the electrophilic α-carbon of the haloketone, where the carbon is activated by the adjacent electron-withdrawing carbonyl."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CCCCC1)(=N)SC(c1ccc(Cl)cc1)C(C(C)(C)C)(=[OH+])","step_weight": 0,"rationale": "Proton transfer neutralizes the nitrogen and protonates the carbonyl oxygen, increasing electrophilicity for subsequent nucleophilic attack and stabilizing the intermediate."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1CCCCC1C1=[NH+]C(C(C)(C)C)(O)C(c1ccc(Cl)cc1)S1","step_weight": 0,"rationale": "The deprotonated nitrogen attacks the protonated carbonyl carbon intramolecularly, favored by proximity and the electrophilicity enhanced by protonation, initiating ring closure."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1CCCCC1C1=NC(C(C)(C)C)([OH2+])C(c1ccc(Cl)cc1)S1","step_weight": 0,"rationale": "Proton transfer from the hydroxyl group to a leaving group site prepares the intermediate for elimination, stabilizing the developing positive charge on oxygen."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1CCCCC1c1nc(C(C)(C)C)c(c1ccc(Cl)cc1)s1","step_weight": 0,"rationale": "Elimination of water occurs, driven by formation of the aromatic thiazole ring, which is thermodynamically favored due to aromatic stabilization."}],"description": "The reaction proceeds via nucleophilic substitution of the thioamide nitrogen onto the α-haloketone, followed by proton transfers and cyclization to form the thiazole ring. Acid-base steps facilitate intermediate stability, and elimination yields the aromatic heterocycle."}
